***Via model***
.SUBCKT Via70::MIPI_DSI1_DATA0_N
+       Node2080::MIPI_DSI1_DATA0_N Node2081::MIPI_DSI1_DATA0_N
+       Node2320::MIPI_DSI1_DATA0_P Node2160::MIPI_DSI1_DATA0_P
+       ngnd

Cu_Node2080::MIPI_DSI1_DATA0_N Node2080::MIPI_DSI1_DATA0_N ngnd 2.32518e-13
Cu_Node2320::MIPI_DSI1_DATA0_P Node2320::MIPI_DSI1_DATA0_P ngnd 2.32518e-13

LNode2080::MIPI_DSI1_DATA0_N Node2080::MIPI_DSI1_DATA0_N Node2081::MIPI_DSI1_DATA0_Ntmp  6.20105e-10
VRLNode2080::MIPI_DSI1_DATA0_N Node2081::MIPI_DSI1_DATA0_Ntmp Node2081::MIPI_DSI1_DATA0_N 0 r_0= 0.000353029
LNode2320::MIPI_DSI1_DATA0_P Node2320::MIPI_DSI1_DATA0_P Node2160::MIPI_DSI1_DATA0_Ptmp  6.20105e-10
VRLNode2320::MIPI_DSI1_DATA0_P Node2160::MIPI_DSI1_DATA0_Ptmp Node2160::MIPI_DSI1_DATA0_P 0 r_0= 0.000353029
KNode2320::MIPI_DSI1_DATA0_PNode2080::MIPI_DSI1_DATA0_N LNode2320::MIPI_DSI1_DATA0_P LNode2080::MIPI_DSI1_DATA0_N 0.299049
.ENDS 

