***Via model***
.SUBCKT Via28::MIPI_DSI1_DATA1_N
+       Node1686::MIPI_DSI1_DATA1_N Node1778::MIPI_DSI1_DATA1_N
+       Node2008::MIPI_DSI1_DATA1_P Node2009::MIPI_DSI1_DATA1_P
+       ngnd

Cu_Node1686::MIPI_DSI1_DATA1_N Node1686::MIPI_DSI1_DATA1_N ngnd 1.39627e-13
Cd_Node1778::MIPI_DSI1_DATA1_N Node1778::MIPI_DSI1_DATA1_N ngnd 1.77079e-13
Cu_Node2008::MIPI_DSI1_DATA1_P Node2008::MIPI_DSI1_DATA1_P ngnd 1.39627e-13
Cd_Node2009::MIPI_DSI1_DATA1_P Node2009::MIPI_DSI1_DATA1_P ngnd 1.77079e-13

LNode1686::MIPI_DSI1_DATA1_N Node1686::MIPI_DSI1_DATA1_N Node1778::MIPI_DSI1_DATA1_Ntmp  6.20105e-10
VRLNode1686::MIPI_DSI1_DATA1_N Node1778::MIPI_DSI1_DATA1_Ntmp Node1778::MIPI_DSI1_DATA1_N 0 r_0= 0.000353029
LNode2008::MIPI_DSI1_DATA1_P Node2008::MIPI_DSI1_DATA1_P Node2009::MIPI_DSI1_DATA1_Ptmp  6.20105e-10
VRLNode2008::MIPI_DSI1_DATA1_P Node2009::MIPI_DSI1_DATA1_Ptmp Node2009::MIPI_DSI1_DATA1_P 0 r_0= 0.000353029
KNode2008::MIPI_DSI1_DATA1_PNode1686::MIPI_DSI1_DATA1_N LNode2008::MIPI_DSI1_DATA1_P LNode1686::MIPI_DSI1_DATA1_N 0.31622
.ENDS 

