***Via model***
.SUBCKT Via26::MIPI_DSI1_DATA2_N
+       Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_N
+       Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_P
+       ngnd

Cu_Node1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N ngnd 2.32517e-13
Cu_Node1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P ngnd 2.32517e-13

LNode1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp  6.20105e-10
VRLNode1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp Node1322::MIPI_DSI1_DATA2_N 0 r_0= 0.000353029
LNode1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp  6.20105e-10
VRLNode1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp Node1542::MIPI_DSI1_DATA2_P 0 r_0= 0.000353029
KNode1541::MIPI_DSI1_DATA2_PNode1321::MIPI_DSI1_DATA2_N LNode1541::MIPI_DSI1_DATA2_P LNode1321::MIPI_DSI1_DATA2_N 0.303042
.ENDS 

