***Via model***
.SUBCKT Via24::MIPI_DSI1_DATA3_N
+       Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N
+       Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P
+       ngnd

Cu_Node1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N ngnd 1.39629e-13
Cd_Node1162::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N ngnd 1.77080e-13
Cu_Node1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P ngnd 1.39629e-13
Cd_Node1208::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P ngnd 1.77080e-13

LNode1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp  6.20105e-10
VRLNode1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp Node1162::MIPI_DSI1_DATA3_N 0 r_0= 0.000353029
LNode1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp  6.20105e-10
VRLNode1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp Node1208::MIPI_DSI1_DATA3_P 0 r_0= 0.000353029
KNode1306::MIPI_DSI1_DATA3_PNode1161::MIPI_DSI1_DATA3_N LNode1306::MIPI_DSI1_DATA3_P LNode1161::MIPI_DSI1_DATA3_N 0.299049
.ENDS 

