***Via model***
.SUBCKT Via72::MIPI_DSI0_CLK_N
+       Node2336::MIPI_DSI0_CLK_N Node2335::MIPI_DSI0_CLK_N
+       Node2696::MIPI_DSI0_CLK_P Node2839::MIPI_DSI0_CLK_P
+       ngnd

Cu_Node2336::MIPI_DSI0_CLK_N Node2336::MIPI_DSI0_CLK_N ngnd 1.39626e-13
Cd_Node2335::MIPI_DSI0_CLK_N Node2335::MIPI_DSI0_CLK_N ngnd 1.77077e-13
Cu_Node2696::MIPI_DSI0_CLK_P Node2696::MIPI_DSI0_CLK_P ngnd 1.39626e-13
Cd_Node2839::MIPI_DSI0_CLK_P Node2839::MIPI_DSI0_CLK_P ngnd 1.77077e-13

LNode2336::MIPI_DSI0_CLK_N Node2336::MIPI_DSI0_CLK_N Node2335::MIPI_DSI0_CLK_Ntmp  6.20105e-10
VRLNode2336::MIPI_DSI0_CLK_N Node2335::MIPI_DSI0_CLK_Ntmp Node2335::MIPI_DSI0_CLK_N 0 r_0= 0.000353029
LNode2696::MIPI_DSI0_CLK_P Node2696::MIPI_DSI0_CLK_P Node2839::MIPI_DSI0_CLK_Ptmp  6.20105e-10
VRLNode2696::MIPI_DSI0_CLK_P Node2839::MIPI_DSI0_CLK_Ptmp Node2839::MIPI_DSI0_CLK_P 0 r_0= 0.000353029
KNode2696::MIPI_DSI0_CLK_PNode2336::MIPI_DSI0_CLK_N LNode2696::MIPI_DSI0_CLK_P LNode2336::MIPI_DSI0_CLK_N 0.313855
.ENDS 

