***Via model***
.SUBCKT Via76::MIPI_DSI0_DATA0_N
+       Node2635::MIPI_DSI0_DATA0_N Node2695::MIPI_DSI0_DATA0_N
+       Node3494::MIPI_DSI0_DATA0_P Node3493::MIPI_DSI0_DATA0_P
+       ngnd

Cu_Node2635::MIPI_DSI0_DATA0_N Node2635::MIPI_DSI0_DATA0_N ngnd 1.39632e-13
Cd_Node2695::MIPI_DSI0_DATA0_N Node2695::MIPI_DSI0_DATA0_N ngnd 1.77083e-13
Cu_Node3494::MIPI_DSI0_DATA0_P Node3494::MIPI_DSI0_DATA0_P ngnd 1.39632e-13
Cd_Node3493::MIPI_DSI0_DATA0_P Node3493::MIPI_DSI0_DATA0_P ngnd 1.77083e-13

LNode3494::MIPI_DSI0_DATA0_P Node3494::MIPI_DSI0_DATA0_P Node3493::MIPI_DSI0_DATA0_Ptmp  6.20105e-10
VRLNode3494::MIPI_DSI0_DATA0_P Node3493::MIPI_DSI0_DATA0_Ptmp Node3493::MIPI_DSI0_DATA0_P 0 r_0= 0.000353029
LNode2635::MIPI_DSI0_DATA0_N Node2635::MIPI_DSI0_DATA0_N Node2695::MIPI_DSI0_DATA0_Ntmp  6.20105e-10
VRLNode2635::MIPI_DSI0_DATA0_N Node2695::MIPI_DSI0_DATA0_Ntmp Node2695::MIPI_DSI0_DATA0_N 0 r_0= 0.000353029
KNode2635::MIPI_DSI0_DATA0_NNode3494::MIPI_DSI0_DATA0_P LNode2635::MIPI_DSI0_DATA0_N LNode3494::MIPI_DSI0_DATA0_P 0.302236
.ENDS 

