***Via model***
.SUBCKT Via75::MIPI_DSI0_DATA1_N
+       Node2524::MIPI_DSI0_DATA1_N Node2523::MIPI_DSI0_DATA1_N
+       Node3076::MIPI_DSI0_DATA1_P Node3075::MIPI_DSI0_DATA1_P
+       ngnd

Cu_Node2524::MIPI_DSI0_DATA1_N Node2524::MIPI_DSI0_DATA1_N ngnd 1.39628e-13
Cd_Node2523::MIPI_DSI0_DATA1_N Node2523::MIPI_DSI0_DATA1_N ngnd 1.77079e-13
Cu_Node3076::MIPI_DSI0_DATA1_P Node3076::MIPI_DSI0_DATA1_P ngnd 1.39628e-13
Cd_Node3075::MIPI_DSI0_DATA1_P Node3075::MIPI_DSI0_DATA1_P ngnd 1.77079e-13

LNode2524::MIPI_DSI0_DATA1_N Node2524::MIPI_DSI0_DATA1_N Node2523::MIPI_DSI0_DATA1_Ntmp  6.20105e-10
VRLNode2524::MIPI_DSI0_DATA1_N Node2523::MIPI_DSI0_DATA1_Ntmp Node2523::MIPI_DSI0_DATA1_N 0 r_0= 0.000353029
LNode3076::MIPI_DSI0_DATA1_P Node3076::MIPI_DSI0_DATA1_P Node3075::MIPI_DSI0_DATA1_Ptmp  6.20105e-10
VRLNode3076::MIPI_DSI0_DATA1_P Node3075::MIPI_DSI0_DATA1_Ptmp Node3075::MIPI_DSI0_DATA1_P 0 r_0= 0.000353029
KNode3076::MIPI_DSI0_DATA1_PNode2524::MIPI_DSI0_DATA1_N LNode3076::MIPI_DSI0_DATA1_P LNode2524::MIPI_DSI0_DATA1_N 0.299072
.ENDS 

