***Via model***
.SUBCKT Via74::MIPI_DSI0_DATA2_N
+       Node2488::MIPI_DSI0_DATA2_N Node2419::MIPI_DSI0_DATA2_N
+       Node3023::MIPI_DSI0_DATA2_P Node2949::MIPI_DSI0_DATA2_P
+       ngnd

Cu_Node2488::MIPI_DSI0_DATA2_N Node2488::MIPI_DSI0_DATA2_N ngnd 1.39627e-13
Cd_Node2419::MIPI_DSI0_DATA2_N Node2419::MIPI_DSI0_DATA2_N ngnd 1.77079e-13
Cu_Node3023::MIPI_DSI0_DATA2_P Node3023::MIPI_DSI0_DATA2_P ngnd 1.39627e-13
Cd_Node2949::MIPI_DSI0_DATA2_P Node2949::MIPI_DSI0_DATA2_P ngnd 1.77079e-13

LNode2488::MIPI_DSI0_DATA2_N Node2488::MIPI_DSI0_DATA2_N Node2419::MIPI_DSI0_DATA2_Ntmp  6.20105e-10
VRLNode2488::MIPI_DSI0_DATA2_N Node2419::MIPI_DSI0_DATA2_Ntmp Node2419::MIPI_DSI0_DATA2_N 0 r_0= 0.000353029
LNode3023::MIPI_DSI0_DATA2_P Node3023::MIPI_DSI0_DATA2_P Node2949::MIPI_DSI0_DATA2_Ptmp  6.20105e-10
VRLNode3023::MIPI_DSI0_DATA2_P Node2949::MIPI_DSI0_DATA2_Ptmp Node2949::MIPI_DSI0_DATA2_P 0 r_0= 0.000353029
KNode3023::MIPI_DSI0_DATA2_PNode2488::MIPI_DSI0_DATA2_N LNode3023::MIPI_DSI0_DATA2_P LNode2488::MIPI_DSI0_DATA2_N 0.313855
.ENDS 

