***Via model***
.SUBCKT Via73::MIPI_DSI0_DATA3_N
+       Node2402::MIPI_DSI0_DATA3_N Node2418::MIPI_DSI0_DATA3_N
+       Node2840::MIPI_DSI0_DATA3_P Node2948::MIPI_DSI0_DATA3_P
+       ngnd

Cu_Node2402::MIPI_DSI0_DATA3_N Node2402::MIPI_DSI0_DATA3_N ngnd 1.93285e-13
Cd_Node2418::MIPI_DSI0_DATA3_N Node2418::MIPI_DSI0_DATA3_N ngnd 2.30916e-13
Cu_Node2840::MIPI_DSI0_DATA3_P Node2840::MIPI_DSI0_DATA3_P ngnd 1.93285e-13
Cd_Node2948::MIPI_DSI0_DATA3_P Node2948::MIPI_DSI0_DATA3_P ngnd 2.30916e-13

LNode2840::MIPI_DSI0_DATA3_P Node2840::MIPI_DSI0_DATA3_P Via78::MIPI_DSI0_DATA3_P_PatchSignal#GNDtmp  1.3358e-11
VRLNode2840::MIPI_DSI0_DATA3_P Via78::MIPI_DSI0_DATA3_P_PatchSignal#GNDtmp Via78::MIPI_DSI0_DATA3_P_PatchSignal#GND 0 r_0= 2.52678e-05
LVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOERtmp  6.58812e-10
VRLVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOERtmp Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER 0 r_0= 0.000302494
LVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOERtmp  6.58812e-10
VRLVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOERtmp Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER 0 r_0= 0.000302494
KVia78::MIPI_DSI0_DATA3_P_PatchSignal#GNDVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND LVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND LVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND 0.36491
LVia78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Node2948::MIPI_DSI0_DATA3_Ptmp  1.3358e-11
VRLVia78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Node2948::MIPI_DSI0_DATA3_Ptmp Node2948::MIPI_DSI0_DATA3_P 0 r_0= 2.52678e-05
LNode2402::MIPI_DSI0_DATA3_N Node2402::MIPI_DSI0_DATA3_N Via73::MIPI_DSI0_DATA3_N_PatchSignal#GNDtmp  1.3358e-11
VRLNode2402::MIPI_DSI0_DATA3_N Via73::MIPI_DSI0_DATA3_N_PatchSignal#GNDtmp Via73::MIPI_DSI0_DATA3_N_PatchSignal#GND 0 r_0= 2.52678e-05
LVia73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Node2418::MIPI_DSI0_DATA3_Ntmp  1.3358e-11
VRLVia73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Node2418::MIPI_DSI0_DATA3_Ntmp Node2418::MIPI_DSI0_DATA3_N 0 r_0= 2.52678e-05
.ENDS 

